US07687491B2
(24c) 2-Methyl-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile
To a solution of 2-(methylsulfonyl)-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile (0.80 g, 2.2 mmol) that was obtained in Example 24 (24b) in ether (10 ml) was added a 3.0 M solution of methylmagnesium bromide in ether (1.5 ml, 4.4 mmol) at −78° C. with stirring, and the resulting mixture was stirred at the same temperature for 1 hour. After stirring, a saturated aqueous solution of ammonium chloride (1 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 1:9) as the eluent to afford the title compound (0.64 g) in a yield of 95% as a white crystalline solid.

reactant | 2-(methylsulfonyl)-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile | 2.2 mmol, 0.80 g | CS(=O)(=O)C1=C(C#N)C=CC(=N1)CO[Si](C(C)C)(C(C)C)C(C)C | C17H28N2O3SSi
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
reactant | water | 20 ml | O | H2O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 4.4 mmol, 1.5 ml | CCOCC | C4H10O
product | 2-Methyl-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile | yield of 95% | CC1=C(C#N)C=CC(=N1)CO[Si](C(C)C)(C(C)C)C(C)C | C17H28N2OSi
